US03962249
trans-1-[3-(o-Methylphenyl)propyl]-2,5-dimethyl-4-(2-furoyl)piperazine hydrochloride
The compound was obtained by following the same process as in Example 2 from a mixture of trans-1-[3-(o-methylphenyl)propyl]-2,5-dimethylpiperazine [b.p. 130° - 140°C (4 mmHg), dipicrate, 250° - 252°C], 2-furoyl chloride and benzene.

reactant | trans-1-[3-(o-methylphenyl)propyl]-2,5-dimethylpiperazine | CC1=C(C=CC=C1)CCCN1[C@H](CN[C@@H](C1)C)C | C16H26N2
reactant | 2-furoyl chloride | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | trans-1-[3-(o-Methylphenyl)propyl]-2,5-dimethyl-4-(2-furoyl)piperazine hydrochloride | Cl.CC1=C(C=CC=C1)CCCN1[C@H](CN([C@@H](C1)C)C(=O)C=1OC=CC1)C | InChI=1S/C21H28N2O2.ClH/c1-16-8-4-5-9-19(16)10-6-12-22-14-18(3)23(15-17(22)2)21(24)20-11-7-13-25-20;/h4-5,7-9,11,13,17-18H,6,10,12,14-15H2,1-3H3;1H/t17-,18+;/m0./s1
